US07618961B2
2-Chloro-5-({[4-(2-ethoxy-2-oxoethyl)-1,3-thiazol-2-yl]amino}sulfonyl)-4-fluorobenzoic acid
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 2-chloro-5-chlorosulfonyl-4-fluorobenzoic acid as described in the synthetic METHOD B to give a white solid (26.5 mg) with purity >90%. MS (pos) m/z 421.4, 423.4.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 2-chloro-5-chlorosulfonyl-4-fluorobenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)F)S(=O)(=O)Cl | C7H3Cl2FO4S
product | 2-Chloro-5-({[4-(2-ethoxy-2-oxoethyl)-1,3-thiazol-2-yl]amino}sulfonyl)-4-fluorobenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)F)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C14H12ClFN2O6S2
